US05773446
1.5 g of methyl (RS)-4-(5-formyl-7,8-dimethoxy-2H-1-benzopyran-2-yl)-butyrate were dissolved in 10 ml of tetrahydrofuran under argon and then treated with 1 ml of 1N NaOH and stirred at 20° C. for 1.5 hrs. The reaction mixture was acidified with 9 ml of 1N HCl, saturated with NaCl and extracted with 2×20 ml of ethyl acetate. The crude product was chromatographed on silica gel in ethyl acetate and chromatographed from toluene/hexane 1:1 There was obtained (RS)-4-(5-formyl-7,8-dimethoxy-2H-1-benzopyran-2-yl)-butyric acid as white crystals.

reactant | methyl (RS)-4-(5-formyl-7,8-dimethoxy-2H-1-benzopyran-2-yl)-butyrate | 1.5 g | C(=O)C1=CC(=C(C2=C1C=CC(O2)CCCC(=O)OC)OC)OC | C17H20O6
reactant | NaOH | 1N, 1 ml | [OH-].[Na+]
reactant | HCl | 1N, 9 ml | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (RS)-4-(5-formyl-7,8-dimethoxy-2H-1-benzopyran-2-yl)-butyric acid | C(=O)C1=CC(=C(C2=C1C=CC(O2)CCCC(=O)O)OC)OC | C16H18O6
